US07332552B2
To a 100 ml round bottom flask was added 20 ml 2-naphthylmagnesium bromide (0.5M solution in THF). 0.76 g carbon disulfide was added dropwise to this mixture and stirred for ½ h at room temperature. Then to the dark red solution was added 2 g α-bromobenzeneacetonitrile dropwise and the mixture stirred for another 2 h. Water was added to the mixture and the organic product was extracted with diethyl ether (3×50 ml), dried with magnesium sulfate overnight and filtered. After removal of solvent and column chromatography (10:3 mixture of hexane and ethyl ether), pure α-cyanobenzyl dithionaphthalate was obtained as an orange odorless solid (63% yield). Proton and carbon NMR spectra were consistent with the expected structure, CTA-CP-2.

reactant | 2-naphthylmagnesium bromide | 0.5M, 20 ml | C1=C(C=CC2=CC=CC=C12)[Mg]Br
reactant | carbon disulfide | 0.76 g | C(=S)=S | CS2
reactant | α-bromobenzeneacetonitrile | 2 g | BrC(C#N)C1=CC=CC=C1 | C8H6BrN
solvent | Water | O | H2O
product | α-cyanobenzyl dithionaphthalate | C1(=CC=CC2=CC=CC=C12)C(=S)SC(C1=CC=CC=C1)C#N | C19H13NS2
